### PR TITLE
[Merged by Bors] - chore: bye-bye, solo `by`s!

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
This PR puts, with one exception, every single remaining `by` that lies all by itself on its own line to the previous line, thus matching the current behaviour of `start-port.sh`. The exception is when the `by` begins the second or later argument to a tuple or anonymous constructor; see https://github.com/leanprover-community/mathlib4/pull/3825#discussion_r1186702599.

Essentially this is `s/\n *by$/ by/g`, but with manual editing to satisfy the linter's max-100-char-line requirement. The Python style linter is also modified to catch these "isolated `by`s".

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/IndicatorFunction.lean [hunk 1]
```diff
@@ -306,9 +306,8 @@ theorem mulIndicator_one_preimage (s : Set M) :
 
 @[to_additive]
 theorem mulIndicator_const_preimage_eq_union (U : Set α) (s : Set M) (a : M) [Decidable (a ∈ s)]
-    [Decidable ((1 : M) ∈ s)] :
-    (U.mulIndicator fun _ => a) ⁻¹' s = (if a ∈ s then U else ∅) ∪ if (1 : M) ∈ s then Uᶜ else ∅ :=
-  by
+    [Decidable ((1 : M) ∈ s)] : (U.mulIndicator fun _ => a) ⁻¹' s =
+    (if a ∈ s then U else ∅) ∪ if (1 : M) ∈ s then Uᶜ else ∅ := by
```
Comment (digama0) [inline Mathlib/Algebra/IndicatorFunction.lean:310]:
```suggestion
    [Decidable ((1 : M) ∈ s)] : (U.mulIndicator fun _ => a) ⁻¹' s =
      (if a ∈ s then U else ∅) ∪ if (1 : M) ∈ s then Uᶜ else ∅ := by
```
Not a fan of the original indentation pattern but I'm not sure what would be best. The return type is a "group" in the sense that hanging indents for large return types should not be at the same level as the surrounding group for the binders and return type.

File: Mathlib/CategoryTheory/Adjunction/Opposites.lean [hunk 2]
```diff
@@ -238,8 +238,8 @@ theorem homEquiv_symm_rightAdjointUniq_hom_app {F : C ⥤ D} {G G' : D ⥤ C} (a
 
 @[reassoc (attr := simp)]
 theorem unit_rightAdjointUniq_hom_app {F : C ⥤ D} {G G' : D ⥤ C} (adj1 : F ⊣ G) (adj2 : F ⊣ G')
-    (x : C) : adj1.unit.app x ≫ (rightAdjointUniq adj1 adj2).hom.app (F.obj x) = adj2.unit.app x :=
-  by
+    (x : C) : adj1.unit.app x ≫ (rightAdjointUniq adj1 adj2).hom.app (F.obj x) =
+    adj2.unit.app x := by
```
Comment (digama0) [inline Mathlib/CategoryTheory/Adjunction/Opposites.lean:242]:
```suggestion
      adj2.unit.app x := by
```

File: Mathlib/CategoryTheory/Comma.lean [hunk 3]
```diff
@@ -166,25 +166,17 @@ def natTrans : fst L R ⋙ L ⟶ snd L R ⋙ R where app X := X.hom
...
-theorem eqToHom_left (X Y : Comma L R) (H : X = Y) :
-    CommaMorphism.left (eqToHom H) =
-      eqToHom
-        (by
-          cases H
-          rfl) :=
-  by
+theorem eqToHom_left (X Y : Comma L R) (H : X = Y) : CommaMorphism.left (eqToHom H) = eqToHom (by
+    cases H
+    rfl) := by
```
Comment (digama0) [inline Mathlib/CategoryTheory/Comma.lean:171]:
```suggestion
theorem eqToHom_left (X Y : Comma L R) (H : X = Y) :
    CommaMorphism.left (eqToHom H) = eqToHom (by cases H; rfl) := by
```

File: Mathlib/CategoryTheory/Limits/Opposites.lean [hunk 4]
```diff
@@ -646,17 +646,17 @@ theorem pullbackIsoUnopPushout_inv_snd {X Y Z : C} (f : X ⟶ Z) (g : Y ⟶ Z) [
 
 @[reassoc (attr := simp)]
 theorem pullbackIsoUnopPushout_hom_inl {X Y Z : C} (f : X ⟶ Z) (g : Y ⟶ Z) [HasPullback f g]
-    [HasPushout f.op g.op] : pushout.inl ≫ (pullbackIsoUnopPushout f g).hom.op = pullback.fst.op :=
-  by
+    [HasPushout f.op g.op] : pushout.inl ≫ (pullbackIsoUnopPushout f g).hom.op =
+    pullback.fst.op := by
```
Comment (digama0) [inline Mathlib/CategoryTheory/Limits/Opposites.lean:650]:
```suggestion
    [HasPushout f.op g.op] :
    pushout.inl ≫ (pullbackIsoUnopPushout f g).hom.op = pullback.fst.op := by
```
this kind of style is also okay and probably better than extra indentation

File: Mathlib/Algebra/IndicatorFunction.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Algebra/IndicatorFunction.lean:310]: I'm going to let you suggest your changes and then I'll batch them in one commit.

File: Mathlib/Combinatorics/Quiver/Path.lean [hunk 5]
```diff
@@ -153,8 +153,8 @@ theorem comp_inj {p₁ p₂ : Path a b} {q₁ q₂ : Path b c} (hq : q₁.length
 
 theorem comp_inj' {p₁ p₂ : Path a b} {q₁ q₂ : Path b c} (h : p₁.length = p₂.length) :
     p₁.comp q₁ = p₂.comp q₂ ↔ p₁ = p₂ ∧ q₁ = q₂ :=
-  ⟨fun h_eq => (comp_inj <| Nat.add_left_cancel <| by simpa [h] using congr_arg length h_eq).1 h_eq,
-    by
+  ⟨fun h_eq => (comp_inj <| Nat.add_left_cancel <| by
+    simpa [h] using congr_arg length h_eq).1 h_eq, by
     rintro ⟨rfl, rfl⟩
     rfl⟩
```
Comment (digama0) [inline Mathlib/Combinatorics/Quiver/Path.lean:159]: The indentation here is a bit misleading. I think it is better to break before the by, and just do something like
```suggestion
  ⟨fun h_eq => (comp_inj <| Nat.add_left_cancel <| by simpa [h] using congr_arg length h_eq).1 h_eq,
   by rintro ⟨rfl, rfl⟩; rfl⟩
```
Alternatively, if both tactic blocks are large, I would generally just use a single `by` block that starts with a `refine` producing two subgoals and then use `·` for each goal. That is a lot easier to format nicely.

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 6]
```diff
@@ -164,9 +164,8 @@ theorem IsEulerian.card_filter_odd_degree [Fintype V] [DecidableRel G.Adj] {u v
 #align simple_graph.walk.is_eulerian.card_filter_odd_degree SimpleGraph.Walk.IsEulerian.card_filter_odd_degree
 
 theorem IsEulerian.card_odd_degree [Fintype V] [DecidableRel G.Adj] {u v : V} {p : G.Walk u v}
-    (ht : p.IsEulerian) :
-    Fintype.card { v : V | Odd (G.degree v) } = 0 ∨ Fintype.card { v : V | Odd (G.degree v) } = 2 :=
-  by
+    (ht : p.IsEulerian) : Fintype.card { v : V | Odd (G.degree v) } = 0 ∨
+    Fintype.card { v : V | Odd (G.degree v) } = 2 := by
```
Comment (digama0) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean:168]:
```suggestion
    (ht : p.IsEulerian) : Fintype.card { v : V | Odd (G.degree v) } = 0 ∨
      Fintype.card { v : V | Odd (G.degree v) } = 2 := by
```
the general rule is, whenever a group (the return type in this case) is split on multiple lines and there are sibling groups on one of those lines (the last parameter), you should either have an additional line just for the group, or you should use a hanging indentation for subsequent lines. The purpose is to avoid the return type from being misread as just `Fintype.card { v : V | Odd (G.degree v) } = 2` in this example.

File: Mathlib/Data/Analysis/Filter.lean [hunk 7]
```diff
@@ -266,9 +266,9 @@ protected def inf {f g : Filter α} (F : f.Realizer) (G : g.Realizer) : (f ⊓ g
       pt := (F.F.pt, G.F.pt)
       inf := fun ⟨a, a'⟩ ⟨b, b'⟩ ↦ (F.F.inf a b, G.F.inf a' b')
       inf_le_left := fun _ _ ↦ inter_subset_inter (F.F.inf_le_left _ _) (G.F.inf_le_left _ _)
-      inf_le_right := fun _ _ ↦ inter_subset_inter (F.F.inf_le_right _ _) (G.F.inf_le_right _ _) },
-    by
-    cases F ; cases G ; substs f g ; simp only [CFilter.toFilter, Prod.exists] ; ext
+      inf_le_right := fun _ _ ↦
+        inter_subset_inter (F.F.inf_le_right _ _) (G.F.inf_le_right _ _) }, by
```
Comment (digama0) [inline Mathlib/Data/Analysis/Filter.lean:270]: This is another misleading `by`. In general you don't want to use hanging `by` in the second/later argument of a tuple or anonymous structure constructor. There are several alternative ways to reformat it, but assuming only whitespace changes I would say to just leave the `by` on its line (and indent the subsequent block).

File: Mathlib/Data/Complex/Exponential.lean [hunk 8]
```diff
@@ -1644,15 +1638,14 @@ theorem exp_bound {x : ℂ} (hx : abs x ≤ 1) {n : ℕ} (hn : 0 < n) :
   rw [sum_range_sub_sum_range hj]
   calc
     abs (∑ m in (range j).filter fun k => n ≤ k, (x ^ m / m.factorial : ℂ)) =
-        abs (∑ m in (range j).filter fun k => n ≤ k, (x ^ n * (x ^ (m - n) / m.factorial) : ℂ)) :=
-      by
+        abs (∑ m in (range j).filter fun k => n ≤ k,
+        (x ^ n * (x ^ (m - n) / m.factorial) : ℂ)) := by
```
Comment (digama0) [inline Mathlib/Data/Complex/Exponential.lean:1642]:
```suggestion
      abs (∑ m in (range j).filter fun k => n ≤ k,
        (x ^ n * (x ^ (m - n) / m.factorial) : ℂ)) := by
```
The second line here should be indented wrt the first since the containing group starts on the previous line, and the first line doesn't need a 4 space indent.

File: Mathlib/Data/Dfinsupp/Basic.lean [hunk 9]
```diff
@@ -1291,16 +1290,12 @@ theorem support_smul {γ : Type w} [Semiring γ] [∀ i, AddCommMonoid (β i)] [
...
-          rw [hf, hg],
-      by
-      rintro rfl
-      simp⟩
+    ⟨fun ⟨h₁, h₂⟩ => ext fun i => if h : i ∈ f.support then h₂ i h else by
+      have hf : f i = 0 := by rwa [mem_support_iff, not_not] at h
+      have hg : g i = 0 := by rwa [h₁, mem_support_iff, not_not] at h
+      rw [hf, hg], by
+        rintro rfl
+        simp⟩
```
Comment (digama0) [inline Mathlib/Data/Dfinsupp/Basic.lean:1298]:
```suggestion
      rw [hf, hg],
     by rintro rfl; simp⟩
```

File: Mathlib/Data/Fin/VecNotation.lean [hunk 10]
```diff
@@ -292,10 +292,8 @@ theorem empty_vecAppend (v : Fin n → α) : vecAppend (zero_add _).symm ![] v =
 
 @[simp]
 theorem cons_vecAppend (ho : o + 1 = m + 1 + n) (x : α) (u : Fin m → α) (v : Fin n → α) :
-    vecAppend ho (vecCons x u) v =
-      vecCons x
-        (vecAppend (by rwa [add_assoc, add_comm 1, ← add_assoc, add_right_cancel_iff] at ho) u v) :=
-  by
+    vecAppend ho (vecCons x u) v = vecCons x
+    (vecAppend (by rwa [add_assoc, add_comm 1, ← add_assoc, add_right_cancel_iff] at ho) u v) := by
```
Comment (digama0) [inline Mathlib/Data/Fin/VecNotation.lean:296]:
```suggestion
      (vecAppend (by rwa [add_assoc, add_comm 1, ← add_assoc, add_right_cancel_iff] at ho) u v) := by
```
because this is an argument to the `vecCons` on the previous line

File: Mathlib/Data/Finset/Sym.lean [hunk 11]
```diff
@@ -7,8 +7,6 @@ Authors: Yaël Dillies
 ! leanprover-community/mathlib commit 02ba8949f486ebecf93fe7460f1ed0564b5e442c
 ! Please do not edit these lines, except to modify the commit id
 ! if you have ported upstream changes.
-
-[`data.finset.sym`@`98e83c3d541c77cdb7da20d79611a780ff8e7d90`..`02ba8949f486ebecf93fe7460f1ed0564b5e442c`](https://leanprover-community.github.io/mathlib-port-status/file/data/finset/sym?range=98e83c3d541c77cdb7da20d79611a780ff8e7d90..02ba8949f486ebecf93fe7460f1ed0564b5e442c)
```
Comment (digama0) [inline Mathlib/Data/Finset/Sym.lean:11]: why this change?

File: Mathlib/Data/Finsupp/AList.lean [hunk 12]
```diff
@@ -30,8 +30,7 @@ variable {α M : Type _} [Zero M]
 /-- Produce an association list for the finsupp over its support using choice. -/
 @[simps]
 noncomputable def toAList (f : α →₀ M) : AList fun _x : α => M :=
-  ⟨f.graph.toList.map Prod.toSigma,
-    by
+  ⟨f.graph.toList.map Prod.toSigma, by
```
Comment (digama0) [inline Mathlib/Data/Finsupp/AList.lean:33]: hanging `by` in tuple

File: Mathlib/Data/Finsupp/Defs.lean [hunk 13]
```diff
@@ -237,10 +237,8 @@ theorem finite_support (f : α →₀ M) : Set.Finite (Function.support f) :=
   f.fun_support_eq.symm ▸ f.support.finite_toSet
 #align finsupp.finite_support Finsupp.finite_support
 
-/- ./././Mathport/Syntax/Translate/Basic.lean:632:2:
-  warning: expanding binder collection (a «expr ∉ » s) -/
```
Comment (digama0) [inline Mathlib/Data/Finsupp/Defs.lean:241]: Don't remove this unless you are fixing the issue

File: Mathlib/Data/Int/ModEq.lean [hunk 14]
```diff
@@ -301,8 +301,7 @@ theorem mod_coprime {a b : ℕ} (hab : Nat.coprime a b) : ∃ y : ℤ, a * y ≡
 
 theorem exists_unique_equiv (a : ℤ) {b : ℤ} (hb : 0 < b) :
     ∃ z : ℤ, 0 ≤ z ∧ z < b ∧ z ≡ a [ZMOD b] :=
-  ⟨a % b, emod_nonneg _ (ne_of_gt hb),
-    by
+  ⟨a % b, emod_nonneg _ (ne_of_gt hb), by
```
Comment (digama0) [inline Mathlib/Data/Int/ModEq.lean:304]: hanging `by` in tuple

File: Mathlib/Data/List/MinMax.lean [hunk 15]
```diff
@@ -233,8 +233,7 @@ theorem index_of_argmin :
 theorem mem_argmax_iff :
     m ∈ argmax f l ↔
       m ∈ l ∧ (∀ a ∈ l, f a ≤ f m) ∧ ∀ a ∈ l, f m ≤ f a → l.indexOf m ≤ l.indexOf a :=
-  ⟨fun hm => ⟨argmax_mem hm, fun a ha => le_of_mem_argmax ha hm, fun _ => index_of_argmax hm⟩,
-    by
+  ⟨fun hm => ⟨argmax_mem hm, fun a ha => le_of_mem_argmax ha hm, fun _ => index_of_argmax hm⟩, by
```
Comment (digama0) [inline Mathlib/Data/List/MinMax.lean:236]: hanging `by` in tuple

File: Mathlib/Data/List/Nodup.lean [hunk 16]
```diff
@@ -85,8 +85,7 @@ theorem not_nodup_pair (a : α) : ¬Nodup [a, a] :=
 #align list.not_nodup_pair List.not_nodup_pair
 
 theorem nodup_iff_sublist {l : List α} : Nodup l ↔ ∀ a, ¬[a, a] <+ l :=
-  ⟨fun d a h => not_nodup_pair a (d.sublist h),
-    by
+  ⟨fun d a h => not_nodup_pair a (d.sublist h), by
```
Comment (digama0) [inline Mathlib/Data/List/Nodup.lean:88]: hanging `by` in tuple

File: Mathlib/Data/List/TFAE.lean [hunk 17]
```diff
@@ -39,13 +39,12 @@ theorem tfae_singleton (p) : TFAE [p] := by simp [TFAE, -eq_iff_iff]
...
 theorem tfae_cons_of_mem {a b} {l : List Prop} (h : b ∈ l) : TFAE (a :: l) ↔ (a ↔ b) ∧ TFAE l :=
   ⟨fun H => ⟨H a (by simp) b (Mem.tail a h),
-    fun p hp q hq => H _ (Mem.tail a hp) _ (Mem.tail a hq)⟩,
-    by
-    rintro ⟨ab, H⟩ p (_ | ⟨_, hp⟩) q (_ | ⟨_, hq⟩)
-    · rfl
-    · exact ab.trans (H _ h _ hq)
-    · exact (ab.trans (H _ h _ hp)).symm
-    · exact H _ hp _ hq⟩
+    fun p hp q hq => H _ (Mem.tail a hp) _ (Mem.tail a hq)⟩, by
```
Comment (digama0) [inline Mathlib/Data/List/TFAE.lean:42]: hanging `by` in tuple

File: Mathlib/Data/Multiset/Pi.lean [hunk 18]
```diff
@@ -50,9 +50,8 @@ theorem Pi.cons_ne {m : Multiset α} {a a' : α} {b : δ a} {f : ∀ a ∈ m, δ
 #align multiset.pi.cons_ne Multiset.Pi.cons_ne
 
 theorem Pi.cons_swap {a a' : α} {b : δ a} {b' : δ a'} {m : Multiset α} {f : ∀ a ∈ m, δ a}
-    (h : a ≠ a') :
-    HEq (Pi.cons (a' ::ₘ m) a b (Pi.cons m a' b' f)) (Pi.cons (a ::ₘ m) a' b' (Pi.cons m a b f)) :=
-  by
+    (h : a ≠ a') : HEq (Pi.cons (a' ::ₘ m) a b (Pi.cons m a' b' f))
+    (Pi.cons (a ::ₘ m) a' b' (Pi.cons m a b f)) := by
```
Comment (digama0) [inline Mathlib/Data/Multiset/Pi.lean:54]:
```suggestion
      (Pi.cons (a ::ₘ m) a' b' (Pi.cons m a b f)) := by
```

File: Mathlib/Data/MvPolynomial/Variables.lean [hunk 19]
```diff
@@ -826,8 +824,7 @@ theorem hom_congr_vars {f₁ f₂ : MvPolynomial σ R →+* S} {p₁ p₂ : MvPo
 
 theorem exists_rename_eq_of_vars_subset_range (p : MvPolynomial σ R) (f : τ → σ) (hfi : Injective f)
     (hf : ↑p.vars ⊆ Set.range f) : ∃ q : MvPolynomial τ R, rename f q = p :=
-  ⟨aeval (fun i : σ => Option.elim' 0 X <| partialInv f i) p,
-    by
+  ⟨aeval (fun i : σ => Option.elim' 0 X <| partialInv f i) p, by
```
Comment (digama0) [inline Mathlib/Data/MvPolynomial/Variables.lean:827]: hanging `by` in tuple

File: Mathlib/Data/Nat/Sqrt.lean [hunk 20]
```diff
@@ -114,8 +114,7 @@ theorem sqrt_zero : sqrt 0 = 0 := rfl
 
 theorem sqrt_eq_zero {n : ℕ} : sqrt n = 0 ↔ n = 0 :=
   ⟨fun h =>
-    Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
-   by
+    Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide, by
```
Comment (digama0) [inline Mathlib/Data/Nat/Sqrt.lean:117]: hanging `by` in tuple

File: Mathlib/Data/Polynomial/Derivative.lean [hunk 21]
```diff
@@ -438,34 +435,27 @@ theorem iterate_derivative_mul {n} (p q : R[X]) :
         derivative (∑ k : ℕ in range n.succ,
             n.choose k • ((derivative^[n - k]) p * (derivative^[k]) q)) :=
       by rw [Function.iterate_succ_apply', IH]
-    _ =
-        (∑ k : ℕ in range n.succ, n.choose k • ((derivative^[n - k + 1]) p * (derivative^[k]) q)) +
-          ∑ k : ℕ in range n.succ, n.choose k • ((derivative^[n - k]) p * (derivative^[k + 1]) q) :=
-      by
+    _ = (∑ k : ℕ in range n.succ, n.choose k • ((derivative^[n - k + 1]) p * (derivative^[k]) q)) +
+        ∑ k : ℕ in range n.succ, n.choose k • ((derivative^[n - k]) p * (derivative^[k + 1]) q) :=by
```
Comment (digama0) [inline Mathlib/Data/Polynomial/Derivative.lean:439]:
```suggestion
        ∑ k : ℕ in range n.succ, n.choose k • ((derivative^[n - k]) p * (derivative^[k + 1]) q) := by
```

File: Mathlib/Data/Polynomial/RingDivision.lean [hunk 22]
```diff
@@ -508,9 +503,7 @@ theorem exists_multiset_roots :
             exact_mod_cast Multiset.card_cons _ _
           _ ≤ degree p := by
             rw [← degree_add_divByMonic (monic_X_sub_C x) hdeg, degree_X_sub_C, add_comm];
-              exact add_le_add (le_refl (1 : WithBot ℕ)) htd
-          ,
-        by
+              exact add_le_add (le_refl (1 : WithBot ℕ)) htd, by
```
Comment (digama0) [inline Mathlib/Data/Polynomial/RingDivision.lean:506]: hanging `by` in tuple

File: Mathlib/Data/Vector/Basic.lean [hunk 23]
```diff
@@ -663,8 +660,7 @@ protected theorem traverse_def (f : α → F β) (x : α) :
   rintro ⟨xs, rfl⟩ ; rfl
 #align vector.traverse_def Vector.traverse_def
 
-protected theorem id_traverse : ∀ x : Vector α n, x.traverse (pure: _ → Id _)= x :=
-  by
+protected theorem id_traverse : ∀ x : Vector α n, x.traverse (pure: _ → Id _)= x := by
```
Comment (digama0) [inline Mathlib/Data/Vector/Basic.lean:663]:
```suggestion
protected theorem id_traverse : ∀ x : Vector α n, x.traverse (pure : _ → Id _) = x := by
```

File: Mathlib/Data/ZMod/Basic.lean [hunk 24]
```diff
@@ -972,15 +967,14 @@ theorem valMinAbs_spec {n : ℕ} [NeZero n] (x : ZMod n) (y : ℤ) :
...
-    exact ⟨x.coe_valMinAbs.symm, x.valMinAbs_mem_Ioc⟩, fun h =>
-    by
-    rw [← sub_eq_zero]
-    apply @Int.eq_zero_of_abs_lt_dvd n
-    · rw [← int_cast_zmod_eq_zero_iff_dvd, Int.cast_sub, coe_valMinAbs, h.1, sub_self]
-    rw [← mul_lt_mul_right (@zero_lt_two ℤ _ _ _ _ _)]
-    nth_rw 1 [← abs_eq_self.2 (@zero_le_two ℤ _ _ _ _)]
-    rw [← abs_mul, sub_mul, abs_lt];
-    constructor <;> linarith only [x.valMinAbs_mem_Ioc.1, x.valMinAbs_mem_Ioc.2, h.2.1, h.2.2]⟩
+    exact ⟨x.coe_valMinAbs.symm, x.valMinAbs_mem_Ioc⟩, fun h => by
```
Comment (digama0) [inline Mathlib/Data/ZMod/Basic.lean:970]: hanging `by` in tuple

File: Mathlib/GroupTheory/Congruence.lean [hunk 25]
```diff
@@ -1291,8 +1289,8 @@ that takes elements `x y : M` with proofs of `c (x * y) 1` and `c (y * x) 1`, an
 of `α` provided that `f x y _ _ = f x' y' _ _` whenever `c x x'` and `c y y'`. -/
 @[to_additive]
 def liftOnUnits (u : Units c.Quotient) (f : ∀ x y : M, c (x * y) 1 → c (y * x) 1 → α)
-    (Hf : ∀ x y hxy hyx x' y' hxy' hyx', c x x' → c y y' → f x y hxy hyx = f x' y' hxy' hyx') : α :=
-  by
+    (Hf : ∀ x y hxy hyx x' y' hxy' hyx',
+    c x x' → c y y' → f x y hxy hyx = f x' y' hxy' hyx') : α := by
```
Comment (digama0) [inline Mathlib/GroupTheory/Congruence.lean:1293]:
```suggestion
      c x x' → c y y' → f x y hxy hyx = f x' y' hxy' hyx') : α := by
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 26]
```diff
@@ -262,20 +262,13 @@ theorem SameCycle.exists_pow_eq'' [Finite α] (h : SameCycle f x y) :
...
-        by
-        rw [← zpow_ofNat,
-          Int.natAbs_of_nonneg
-            (Int.emod_nonneg _ <| Int.coe_nat_ne_zero_iff_pos.2 <| orderOf_pos _),
-          ← zpow_eq_mod_orderOf, hi]⟩⟩
+    ⟨fun ⟨n, _, hn⟩ => ⟨n, hn⟩, fun ⟨i, hi⟩ => ⟨(i % orderOf f).natAbs,
+      List.mem_range.2 (Int.ofNat_lt.1 <| by
+        rw [Int.natAbs_of_nonneg (Int.emod_nonneg _ <| Int.coe_nat_ne_zero.2 (orderOf_pos _).ne')]
+        · refine' (Int.emod_lt _ <| Int.coe_nat_ne_zero_iff_pos.2 <| orderOf_pos _).trans_le _
+          simp [orderOf_le_card_univ]), by
```
Comment (digama0) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:269]: hanging `by` in tuple

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 27]
```diff
@@ -1200,9 +1185,7 @@ theorem isCycleOn_support_cycleOf (f : Perm α) (x : α) : f.IsCycleOn (f.cycleO
     · exact ⟨sameCycle_apply_right.1 (mem_support_cycleOf_iff.1 h).1,
       (mem_support_cycleOf_iff.1 h).2⟩
     · exact ⟨sameCycle_apply_right.2 (mem_support_cycleOf_iff.1 h).1,
-      (mem_support_cycleOf_iff.1 h).2⟩
-  ,fun a ha b hb =>
-    by
+      (mem_support_cycleOf_iff.1 h).2⟩, fun a ha b hb => by
```
Comment (digama0) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1188]: hanging `by` in tuple

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 28]
```diff
@@ -1552,11 +1531,11 @@ end CycleFactorsFinset
 @[elab_as_elim]
 theorem cycle_induction_on [Finite β] (P : Perm β → Prop) (σ : Perm β) (base_one : P 1)
     (base_cycles : ∀ σ : Perm β, σ.IsCycle → P σ)
-    (induction_disjoint : ∀ σ τ : Perm β, Disjoint σ τ → IsCycle σ → P σ → P τ → P (σ * τ)) : P σ :=
-  by
+    (induction_disjoint : ∀ σ τ : Perm β,
+    Disjoint σ τ → IsCycle σ → P σ → P τ → P (σ * τ)) : P σ := by
```
Comment (digama0) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:1535]:
```suggestion
      Disjoint σ τ → IsCycle σ → P σ → P τ → P (σ * τ)) : P σ := by
```

File: Mathlib/LinearAlgebra/Alternating.lean [hunk 29]
```diff
@@ -1153,8 +1152,8 @@ variable [Module R' N₁] [Module R' N₂]
 /-- Two alternating maps indexed by a `Fintype` are equal if they are equal when all arguments
 are distinct basis vectors. -/
 theorem Basis.ext_alternating {f g : AlternatingMap R' N₁ N₂ ι} (e : Basis ι₁ R' N₁)
-    (h : ∀ v : ι → ι₁, Function.Injective v → (f fun i => e (v i)) = g fun i => e (v i)) : f = g :=
-  by
+    (h : ∀ v : ι → ι₁, Function.Injective v → (f fun i => e (v i)) =
+    g fun i => e (v i)) : f = g := by
```
Comment (digama0) [inline Mathlib/LinearAlgebra/Alternating.lean:1156]:
```suggestion
    (h : ∀ v : ι → ι₁, Function.Injective v → (f fun i => e (v i)) = g fun i => e (v i)) :
    f = g := by
```

File: Mathlib/LinearAlgebra/Matrix/Determinant.lean [hunk 30]
```diff
@@ -743,16 +743,12 @@ theorem det_succ_column_zero {n : ℕ} (A : Matrix (Fin n.succ) (Fin n.succ) R)
   rw [Equiv.Perm.decomposeFin.symm_sign, if_neg (Fin.succ_ne_zero i)]
   calc
     ((-1 * Perm.sign σ : ℤ) • ∏ i', A (Perm.decomposeFin.symm (Fin.succ i, σ) i') i') =
-        (-1 * Perm.sign σ : ℤ) •
-          (A (Fin.succ i) 0 * ∏ i', A ((Fin.succ i).succAbove (Fin.cycleRange i (σ i'))) i'.succ) :=
-      by
+        (-1 * Perm.sign σ : ℤ) • (A (Fin.succ i) 0 *
+        ∏ i', A ((Fin.succ i).succAbove (Fin.cycleRange i (σ i'))) i'.succ) := by
```
Comment (digama0) [inline Mathlib/LinearAlgebra/Matrix/Determinant.lean:747]:
```suggestion
          ∏ i', A ((Fin.succ i).succAbove (Fin.cycleRange i (σ i'))) i'.succ) := by
```

File: Mathlib/NumberTheory/ClassNumber/AdmissibleAbsoluteValue.lean [hunk 31]
```diff
@@ -63,9 +63,8 @@ variable {abv}
 /-- For all `ε > 0` and finite families `A`, we can partition the remainders of `A` mod `b`
 into `abv.card ε` sets, such that all elements in each part of remainders are close together. -/
 theorem exists_partition {ι : Type _} [Fintype ι] {ε : ℝ} (hε : 0 < ε) {b : R} (hb : b ≠ 0)
-    (A : ι → R) (h : abv.IsAdmissible) :
-    ∃ t : ι → Fin (h.card ε), ∀ i₀ i₁, t i₀ = t i₁ → (abv (A i₁ % b - A i₀ % b) : ℝ) < abv b • ε :=
-  by
+    (A : ι → R) (h : abv.IsAdmissible) : ∃ t : ι → Fin (h.card ε),
+    ∀ i₀ i₁, t i₀ = t i₁ → (abv (A i₁ % b - A i₀ % b) : ℝ) < abv b • ε := by
```
Comment (digama0) [inline Mathlib/NumberTheory/ClassNumber/AdmissibleAbsoluteValue.lean:67]:
```suggestion
      ∀ i₀ i₁, t i₀ = t i₁ → (abv (A i₁ % b - A i₀ % b) : ℝ) < abv b • ε := by
```

File: Mathlib/NumberTheory/PellMatiyasevic.lean [hunk 32]
```diff
@@ -497,8 +495,7 @@ theorem ysq_dvd_yy (n) : yn a1 n * yn a1 n ∣ yn a1 (n * yn a1 n) :=
 
 theorem dvd_of_ysq_dvd {n t} (h : yn a1 n * yn a1 n ∣ yn a1 t) : yn a1 n ∣ t :=
   have nt : n ∣ t := (y_dvd_iff a1 n t).1 <| dvd_of_mul_left_dvd h
-  n.eq_zero_or_pos.elim (fun n0 => by rwa [n0] at nt⊢) fun n0l : 0 < n =>
-    by
+  n.eq_zero_or_pos.elim (fun n0 => by rwa [n0] at nt⊢) fun n0l : 0 < n => by
```
Comment (digama0) [inline Mathlib/NumberTheory/PellMatiyasevic.lean:498]:
```suggestion
  n.eq_zero_or_pos.elim (fun n0 => by rwa [n0] at nt ⊢) fun n0l : 0 < n => by
```

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 33]
```diff
@@ -733,10 +729,9 @@ namespace Ideal
 
 theorem mul_sub_mul_mem {R : Type _} [CommRing R] (I : Ideal R) {a b c d : R} (h1 : a - b ∈ I)
     (h2 : c - d ∈ I) : a * c - b * d ∈ I := by
-  rw [show a * c - b * d = (a - b) * c + b * (c - d)
-      by
-      rw [sub_mul, mul_sub]
-      abel]
+  rw [show a * c - b * d = (a - b) * c + b * (c - d) by
+    rw [sub_mul, mul_sub]
+    abel]
```
Comment (digama0) [inline Mathlib/RingTheory/Ideal/Basic.lean:734]:
```suggestion
  rw [show a * c - b * d = (a - b) * c + b * (c - d) by rw [sub_mul, mul_sub]; abel]
```

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 34]
```diff
@@ -914,24 +913,18 @@ protected theorem Polynomial.isNoetherianRing [inst : IsNoetherianRing R] : IsNo
...
             (fun _ _ => Ideal.add_mem _) fun c f hf => f.C_mul' c ▸ Ideal.mul_mem_left _ _ hf
-      ⟨s,
-        le_antisymm
-            (Ideal.span_le.2 fun x hx =>
-              have : x ∈ I.degreeLE N := hs ▸ Submodule.subset_span hx
-              this.2) <|
-          by
+      ⟨s, le_antisymm (Ideal.span_le.2 fun x hx =>
+        have : x ∈ I.degreeLE N := hs ▸ Submodule.subset_span hx
+        this.2) <| by
```
Comment (digama0) [inline Mathlib/RingTheory/Polynomial/Basic.lean:918]:
```suggestion
          have : x ∈ I.degreeLE N := hs ▸ Submodule.subset_span hx
          this.2) <| by
```
and the block after should use 2 space indent

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 35]
```diff
@@ -1137,14 +1128,9 @@ instance {R : Type u} [CommSemiring R] [NoZeroDivisors R] {σ : Type v} :
...
-      rename (Subtype.map id (Finset.subset_union_left s t) : { x // x ∈ s } → { x // x ∈ s ∪ t })
-            p *
-          rename
-            (Subtype.map id (Finset.subset_union_right s t) : { x // x ∈ t } → { x // x ∈ s ∪ t })
-            q =
-        0 :=
-      by
+    have : rename (Subtype.map id (Finset.subset_union_left s t) : { x // x ∈ s } →
+        { x // x ∈ s ∪ t }) p * rename (Subtype.map id (Finset.subset_union_right s t) :
+        { x // x ∈ t } → { x // x ∈ s ∪ t }) q = 0 := by
```
Comment (digama0) [inline Mathlib/RingTheory/Polynomial/Basic.lean:1133]:
```suggestion
    have : 
        rename (Subtype.map id (Finset.subset_union_left s t) : { x // x ∈ s } → { x // x ∈ s ∪ t }) p *
        rename (Subtype.map id (Finset.subset_union_right s t) : { x // x ∈ t } → { x // x ∈ s ∪ t }) q =
        0 := by
```

File: Mathlib/RingTheory/UniqueFactorizationDomain.lean [hunk 36]
```diff
@@ -369,8 +368,7 @@ theorem MulEquiv.uniqueFactorizationMonoid (e : α ≃* β) (hα : UniqueFactori
     ⟨w.map e, fun b hb =>
       let ⟨c, hc, he⟩ := Multiset.mem_map.1 hb
       he ▸ e.prime_iff.1 (hp c hc),
-      Units.map e.toMonoidHom u,
-      by
+      Units.map e.toMonoidHom u, by
```
Comment (digama0) [inline Mathlib/RingTheory/UniqueFactorizationDomain.lean:371]: hanging `by` in tuple

File: Mathlib/RingTheory/UniqueFactorizationDomain.lean [hunk 37]
```diff
@@ -1135,20 +1129,15 @@ theorem multiplicative_of_coprime (f : α → β) (a b : α) (h0 : f 0 = 0)
...
-        f
-          (∏ p : α in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
-            p ^ (normalizedFactors b).count p)
-    by
+      f (∏ p in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
+      p ^ ((normalizedFactors a).count p + (normalizedFactors b).count p)) =
+      f (∏ p in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
+      p ^ (normalizedFactors a).count p) *
+      f (∏ p : α in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
+      p ^ (normalizedFactors b).count p) by
```
Comment (digama0) [inline Mathlib/RingTheory/UniqueFactorizationDomain.lean:1140]:
```suggestion
      f (∏ p in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
        p ^ ((normalizedFactors a).count p + (normalizedFactors b).count p)) =
      f (∏ p in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
        p ^ (normalizedFactors a).count p) *
      f (∏ p : α in (normalizedFactors a).toFinset ∪ (normalizedFactors b).toFinset,
        p ^ (normalizedFactors b).count p) by
```

File: Mathlib/Topology/Algebra/UniformField.lean [hunk 38]
```diff
@@ -193,8 +191,7 @@ instance Subfield.completableTopField (K : Subfield L) : CompletableTopField K :
       have hi : UniformInducing i := uniformEmbedding_subtype_val.toUniformInducing
       rw [← hi.cauchy_map_iff] at F_cau⊢
       rw [map_comm
-          (show (i ∘ fun x => x⁻¹) = (fun x => x⁻¹) ∘ i
-            by
+          (show (i ∘ fun x => x⁻¹) = (fun x => x⁻¹) ∘ i by
```
Comment (digama0) [inline Mathlib/Topology/Algebra/UniformField.lean:194]:
```suggestion
      rw [map_comm (show (i ∘ fun x => x⁻¹) = (fun x => x⁻¹) ∘ i by ext; rfl)]
```

File: Mathlib/Topology/Connected.lean [hunk 39]
```diff
@@ -347,8 +347,7 @@ theorem isPreconnected_closed_iff {s : Set α} :
     have yt : y ∉ t := (h' ys).resolve_right (absurd yt')
     have := h _ _ ht.isOpen_compl ht'.isOpen_compl h' ⟨y, ys, yt⟩ ⟨x, xs, xt'⟩
     rw [← compl_union] at this
-    exact this.ne_empty htt'.disjoint_compl_right.inter_eq,
-    by
+    exact this.ne_empty htt'.disjoint_compl_right.inter_eq, by
```
Comment (digama0) [inline Mathlib/Topology/Connected.lean:350]: hanging `by` in tuple

File: Mathlib/Topology/UniformSpace/Basic.lean [hunk 40]
```diff
@@ -1750,8 +1750,7 @@ def UniformSpace.Core.sum : UniformSpace.Core (Sum α β) :=
       map (fun p : β × β => (inr p.1, inr p.2)) (𝓤 β))
     (fun r ⟨H₁, H₂⟩ x => by
       cases x <;> [apply refl_mem_uniformity H₁, apply refl_mem_uniformity H₂])
-    (fun r ⟨H₁, H₂⟩ => ⟨symm_le_uniformity H₁, symm_le_uniformity H₂⟩) fun r ⟨Hrα, Hrβ⟩ =>
-    by
+    (fun r ⟨H₁, H₂⟩ => ⟨symm_le_uniformity H₁, symm_le_uniformity H₂⟩) fun r ⟨Hrα, Hrβ⟩ => by
```
Comment (digama0) [inline Mathlib/Topology/UniformSpace/Basic.lean:1753]: this would be better formatted with the last argument in parens and the block indented

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 41]
```diff
@@ -267,9 +267,8 @@ theorem CauchySeq.subseq_mem {V : ℕ → Set (α × α)} (hV : ∀ n, V n ∈ 
 #align cauchy_seq.subseq_mem CauchySeq.subseq_mem
 
 theorem Filter.Tendsto.subseq_mem_entourage {V : ℕ → Set (α × α)} (hV : ∀ n, V n ∈ 𝓤 α) {u : ℕ → α}
-    {a : α} (hu : Tendsto u atTop (𝓝 a)) :
-    ∃ φ : ℕ → ℕ, StrictMono φ ∧ (u (φ 0), a) ∈ V 0 ∧ ∀ n, (u <| φ (n + 1), u <| φ n) ∈ V (n + 1) :=
-  by
+    {a : α} (hu : Tendsto u atTop (𝓝 a)) : ∃ φ : ℕ → ℕ, StrictMono φ ∧ (u (φ 0), a) ∈ V 0 ∧
+    ∀ n, (u <| φ (n + 1), u <| φ n) ∈ V (n + 1) := by
```
Comment (digama0) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:271]:
```suggestion
      ∀ n, (u <| φ (n + 1), u <| φ n) ∈ V (n + 1) := by
```

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 42]
```diff
@@ -157,8 +157,7 @@ def compactConvergenceFilterBasis (f : C(α, β)) : FilterBasis C(α, β) :=
 
 theorem mem_compactConvergence_nhd_filter (Y : Set C(α, β)) :
     Y ∈ (compactConvergenceFilterBasis f).filter ↔
-      ∃ (K : Set α)(V : Set (β × β))(_hK : IsCompact K)(_hV : V ∈ 𝓤 β), compactConvNhd K V f ⊆ Y :=
-  by
+    ∃ (K : Set α)(V : Set (β × β))(_hK : IsCompact K)(_hV : V ∈ 𝓤 β), compactConvNhd K V f ⊆ Y := by
```
Comment (digama0) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean:160]:
```suggestion
    ∃ (K : Set α) (V : Set (β × β)) (_hK : IsCompact K) (_hV : V ∈ 𝓤 β), compactConvNhd K V f ⊆ Y := by
```

File: test/GeneralizeProofs.lean [hunk 43]
```diff
@@ -12,58 +12,50 @@ example : List.nthLe [1, 2] 1 (by simp) = 2 := by
...
-by
+example (a : ∃ x, x < 2) : Classical.choose a < 2 := by
   generalize_proofs t
   guard_target = Classical.choose a < 2
   exact Classical.choose_spec a
 
 example (x : ℕ) (h : x < 2) (H : Classical.choose (⟨x, h⟩ : ∃ x, x < 2) < 2) :
-  Classical.choose (⟨x, h⟩ : ∃ x, x < 2) < 2 :=
-by
+  Classical.choose (⟨x, h⟩ : ∃ x, x < 2) < 2 := by
```
Comment (digama0) [inline test/GeneralizeProofs.lean:58]:
```suggestion
    Classical.choose (⟨x, h⟩ : ∃ x, x < 2) < 2 := by
```

**Review by digama0 — COMMENTED** [review]
I read through all the changes. Most of them are correct and a great improvement; I left notes regarding some special cases where you can't always hang a `by`, or where the indentation isn't quite right.

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 44]
```diff
@@ -914,63 +914,61 @@ protected theorem Polynomial.isNoetherianRing [inst : IsNoetherianRing R] : IsNo
...
-            · by_cases hpq : p - q * Polynomial.X ^ (k - q.natDegree) = 0
-              · rw [hpq]
-                exact Ideal.zero_mem _
-              refine' ih _ _ (I.sub_mem hp (I.mul_mem_right _ hq)) rfl
-              rwa [Polynomial.degree_eq_natDegree hpq, Nat.cast_withBot, Nat.cast_withBot,
-                WithBot.coe_lt_coe, hn] at this
-            exact hs2 ⟨Polynomial.mem_degreeLE.2 hdq, hq⟩⟩⟩
+          have : x ∈ I.degreeLE N := hs ▸ Submodule.subset_span hx
+          this.2) <| by
+            have : Submodule.span R[X] ↑s = Ideal.span ↑s := by rfl
```
Comment (digama0) [inline Mathlib/RingTheory/Polynomial/Basic.lean:919]: this line and the rest of the block should be 4 spaces less

Comment (Parcly-Taxel) [reply Mathlib/RingTheory/Polynomial/Basic.lean]: Ah, I thought at first when reading "2 space indent" that it should be 2 spaces more, not less. Thanks.

**Comment by Parcly-Taxel** [comment]
@digama0 I should have resolved all the issues you pointed out – the linter for isolated `by`s has had the requisite exceptions carved out.

File: Mathlib/Data/MvPolynomial/Variables.lean [hunk 45]
```diff
@@ -824,15 +824,16 @@ theorem hom_congr_vars {f₁ f₂ : MvPolynomial σ R →+* S} {p₁ p₂ : MvPo
...
-    show (rename f).toRingHom.comp _ p = RingHom.id _ p
-    refine' hom_congr_vars _ _ _
-    · ext1
-      simp [algebraMap_eq]
-    · intro i hip _
-      rcases hf hip with ⟨i, rfl⟩
-      simp [partialInv_left hfi]
-    · rfl⟩
+  ⟨aeval (fun i : σ => Option.elim' 0 X <| partialInv f i) p,
+    by
```
Comment (digama0) [inline Mathlib/Data/MvPolynomial/Variables.lean:828]: Not going to require you to change it back, but an exception to the exception here is that if the surrounding tuple starts on the same line as the hanging `by`, it is okay. The main thing to avoid is that you have a `by` starting an item where the previous sibling ends earlier on the same line and starts somewhere on a previous line, as in that case it is hard to find the parent of the `by` subexpression by following indentation / going backward in the line.

File: Mathlib/Data/Nat/Sqrt.lean [hunk 46]
```diff
@@ -114,9 +114,10 @@ theorem sqrt_zero : sqrt 0 = 0 := rfl
 
 theorem sqrt_eq_zero {n : ℕ} : sqrt n = 0 ↔ n = 0 :=
   ⟨fun h =>
-    Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide, by
-    rintro rfl
-    simp⟩
+    Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
+    by
```
Comment (digama0) [inline Mathlib/Data/Nat/Sqrt.lean:118]: TBH I'm still not entirely sure about how to indent tuples when multiline formatting is needed. Possibilities include using 1 space indent like this:
```
  ⟨fun h => Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
   by rintro rfl; simp⟩
```
or 2 space indent with an awkward interior space:
```
  ⟨ fun h => Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
    by rintro rfl; simp ⟩
```
or just live with the misalignment:
```
  ⟨fun h => Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
    by rintro rfl; simp⟩
```
but in this last case you should indent subsequent lines (if more line breaking is necessary) such that they don't line up with the `by`:
```
  ⟨fun h => 
      Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
    by rintro rfl; simp⟩
```

File: Mathlib/RingTheory/UniqueFactorizationDomain.lean [hunk 47]
```diff
@@ -368,9 +368,10 @@ theorem MulEquiv.uniqueFactorizationMonoid (e : α ≃* β) (hα : UniqueFactori
     ⟨w.map e, fun b hb =>
       let ⟨c, hc, he⟩ := Multiset.mem_map.1 hb
       he ▸ e.prime_iff.1 (hp c hc),
-      Units.map e.toMonoidHom u, by
-      erw [Multiset.prod_hom, ← e.map_mul, h]
-      simp⟩
+      Units.map e.toMonoidHom u,
```
Comment (digama0) [inline Mathlib/RingTheory/UniqueFactorizationDomain.lean:371]: this and previous lines should get an extra indent

File: Mathlib/Topology/Connected.lean [hunk 48]
```diff
@@ -347,15 +347,16 @@ theorem isPreconnected_closed_iff {s : Set α} :
...
-    exact this.ne_empty htt'.disjoint_compl_right.inter_eq, by
-    rintro h u v hu hv huv ⟨x, xs, xu⟩ ⟨y, ys, yv⟩
-    rw [← not_disjoint_iff_nonempty_inter, ← subset_compl_iff_disjoint_right, compl_inter]
-    intro h'
-    have xv : x ∉ v := (h' xs).elim (absurd xu) id
-    have yu : y ∉ u := (h' ys).elim id (absurd yv)
-    have := h _ _ hu.isClosed_compl hv.isClosed_compl h' ⟨y, ys, yu⟩ ⟨x, xs, xv⟩
-    rw [← compl_union] at this
-    exact this.ne_empty huv.disjoint_compl_right.inter_eq⟩
+    exact this.ne_empty htt'.disjoint_compl_right.inter_eq,
```
Comment (digama0) [inline Mathlib/Topology/Connected.lean:350]: this and previous lines should get an extra indent

File: Mathlib/Data/Nat/Sqrt.lean (hunk 46 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Nat/Sqrt.lean]: I've gone with the third of your proposals for this one:
```lean
  ⟨fun h => 
      Nat.eq_zero_of_le_zero <| le_of_lt_succ <| (@sqrt_lt n 1).1 <| by rw [h]; decide,
    by rintro rfl; simp⟩
```
